US05633377
A solution of 820 mg 2-chloropyrimidine and 1.6 g cis-2,6-dimethylpiperazine in 25 mL toluene was heated at reflux temperature for 12 hours. The solvent was evaporated, the residue was basified with 5% sodium hydroxide and extracted with 2×100mL of dichloromethane. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated to give cis-2,6-dimethyl-1-(2-pyrimidyl)-piperazine. This amine was then used to prepare 2-phenyl-4(5)-[(4-(2-pyrimidinyl)-cis-2,6-dimethylpiperazin-1-yl)-methyl]yl)-methyl]-imidazole (Compound 140), m.p.130°-135° C., according to the procedures described in Example VIII.

reactant | 2-chloropyrimidine | 820 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | cis-2,6-dimethylpiperazine | 1.6 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | cis-2,6-dimethyl-1-(2-pyrimidyl)-piperazine | C[C@@H]1N([C@@H](CNC1)C)C1=NC=CC=N1 | C10H16N4
